US07091230B2
Step 3 Preparation of 5-Chloro-6-hydroxy-7-propyl-3-trifluoromethyl-1,2-benzisoxazole.
Diisobutylamine (0.8 ml, 0.10 eq) and 6-hydroxy-7-propyl-3-trifluoromethylbenzisoxazole (11 gm, 1.0 eq) were dissolved in toluene (275 ml) at room temperature. Slow addition of sulfuryl chloride (4.20 ml, 1.15 eq) results in a suspension which was stirred overnight. Additional diisobutylamine (total 1.6 ml, 0.4 eq) was added in four equal portions over 24 hr until no further starting benzisoxazole was detected by analytical TLC. The reaction mixture was poured into saturated sodium bisulfite (500 ml) and ethyl ether (700 ml). The phases were separated. The ether phase was washed with brine and dried over Na2SO4. The solvent was evaporated in vac to give an orange solid which was purified by chromatography on silica gel eluting with acetone:hexane (2:98) to give the title compound.

reactant | Diisobutylamine | 0.8 ml, 0.10 eq | C(C(C)C)NCC(C)C | C8H19N
reactant | 6-hydroxy-7-propyl-3-trifluoromethylbenzisoxazole | 11 gm, 1.0 eq | OC1=C(C2=C(C(=NO2)C(F)(F)F)C=C1)CCC | C11H10F3NO2
reactant | sulfuryl chloride | 4.20 ml, 1.15 eq | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | diisobutylamine | 1.6 ml, 0.4 eq | C(C(C)C)NCC(C)C | C8H19N
reactant | benzisoxazole | O1N=CC2=C1C=CC=C2 | C7H5NO
reactant | sodium bisulfite | 500 ml | S([O-])(O)=O.[Na+]
solvent | toluene | 275 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl ether | 700 ml | C(C)OCC | C4H10O
product | 5-Chloro-6-hydroxy-7-propyl-3-trifluoromethyl-1,2-benzisoxazole | ClC=1C(=C(C2=C(C(=NO2)C(F)(F)F)C1)CCC)O | C11H9ClF3NO2
